US09358231B2
A. 4-methoxy-1-((2-(trimethylsilyl)ethoxy)methyl)-5-vinyl-1H-pyrrolo[2,3-b]pyridine
To a solution methyltriphenylphosphonium iodide (782 mg, 1.93 mmol) in dried THF (5 mL) was added 2.5 M n-BuLi in Hexane (0.74 mL, 1.85 mmol) at −78° C. After 10 minutes, 4-methoxy-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde (493 mg, 1.61 mmol) was added to the reaction mixture. The reaction mixture was warmed to room temperature spontaneously. After 2 hours, the reaction mixture was quenched with water and was partitioned between ethyl acetate and water. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The combined organic extracts were washed with brine, dried over MgSO4, celite filtered and concentrated under reduced pressure. The crude product was purified by flash chromatography using (5% to 15% Ethyl acetate/Hexane) as a solvent to afford title compound (371 mg, 76% yield). 1H NMR (600 MHz, CDCl3) δ 8.40 (s, 1H), 7.27 (d, J=3.6 Hz, 1H), 7.07 (dd, J=11.4, 18 Hz, 1H), 6.78 (d, J=3.6 Hz, 1H), 5.78 (d, J=18 Hz, 1H), 5.70 (s, 2H), 5.30 (d, J=11.4 Hz, 1H), 4.38 (s, 3H), 3.60 (t, J=8.4 Hz, 2H), 0.97 (t, J=8.4 Hz, 2H), 0 (s, 9H). MS m/z: 305 [M+1].

reactant | methyltriphenylphosphonium iodide | 1.93 mmol, 782 mg | [I-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 2.5 M | [Li]CCCC
reactant | Hexane | 1.85 mmol, 0.74 mL | CCCCCC | C6H14
reactant | 4-methoxy-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde | 1.61 mmol, 493 mg | COC1=C2C(=NC=C1C=O)N(C=C2)COCC[Si](C)(C)C | C15H22N2O3Si
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-methoxy-1-((2-(trimethylsilyl)ethoxy)methyl)-5-vinyl-1H-pyrrolo[2,3-b]pyridine | 371 mg, 76% yield | COC1=C2C(=NC=C1C=C)N(C=C2)COCC[Si](C)(C)C | C16H24N2O2Si
